US06479487B1
1-(Cyclopropylmethyl)-4-piperidone is prepared from 4-piperidone and (chloromethyl)cyclopropane essentially as described above in Example 38, Scheme C, step a.

reactant | 4-piperidone | N1CCC(CC1)=O | C5H9NO
reactant | (chloromethyl)cyclopropane | ClCC1CC1 | C4H7Cl
product | 1-(Cyclopropylmethyl)-4-piperidone | C1(CC1)CN1CCC(CC1)=O | C9H15NO
